US06548495B2
7-Methyl-4-(3-pyrazol-1-yl-phenyl)-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from {5-methyl-2-[3-oxo-3-(3-pyrazol-1-yl-phenyl)-propionylamino]-4-trifluoromethyl-phenyl}-carbamic acid tert-butyl ester (Example M54) (0.36 g, 0.72 mmol) by treatment with TFA in CH2Cl2 according to the general procedure N. Obtained as a white solid (182 mg, 66%).

reactant | {5-methyl-2-[3-oxo-3-(3-pyrazol-1-yl-phenyl)-propionylamino]-4-trifluoromethyl-phenyl}-carbamic acid tert-butyl ester | 0.72 mmol, 0.36 g | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)C)C(F)(F)F)NC(CC(C1=CC(=CC=C1)N1N=CC=C1)=O)=O)=O | C25H25F3N4O4
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 7-Methyl-4-(3-pyrazol-1-yl-phenyl)-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one | CC1=CC2=C(NC(CC(=N2)C2=CC(=CC=C2)N2N=CC=C2)=O)C=C1C(F)(F)F | C20H15F3N4O
